US09376449B2
To a mixture of tert-butyl {2-[5-methoxy-2-(methylcarbamoyl)-1H-indol-3-yl]ethyl}carbamate (520 mg) and dioxane (5.00 mL) was added hydrogen chloride (4 M dioxane solution, 5.00 mL), followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to obtain 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (460 mg) as a yellow solid.

reactant | tert-butyl {2-[5-methoxy-2-(methylcarbamoyl)-1H-indol-3-yl]ethyl}carbamate | 520 mg | COC=1C=C2C(=C(NC2=CC1)C(NC)=O)CCNC(OC(C)(C)C)=O | C18H25N3O4
reactant | hydrogen chloride | 4 M, 5.00 mL | Cl | ClH
solvent | dioxane | 5.00 mL | O1CCOCC1 | C4H8O2
product | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 460 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC | InChI=1S/C13H17N3O2.ClH/c1-15-13(17)12-9(5-6-14)10-7-8(18-2)3-4-11(10)16-12;/h3-4,7,16H,5-6,14H2,1-2H3,(H,15,17);1H
